US06797823B1
N-(2,4-Difluorobenzyl)-N′-{4-[(6,7-dimethoxy-4-quinazolinyl)oxy]-2fluorophenyl}urea
4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]-2-fluoro-aniline (50 mg) was dissolved in chloroform (3 ml) and triethylamine (0.3 ml), and a solution of triphosgene (47 mg) in chloroform was then added to the solution. The mixture was stirred at room temperature for 30 min. Next, 2,4-difluorobenzylamine (28 μl) was added to the reaction solution, and the mixture was further stirred at room temperature overnight. The precipitated crystal was collected by filtration and was washed to give 20 mg (yield 26%) of the title compound.

reactant | 4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]-2-fluoro-aniline | 50 mg | COC=1C=C2C(=NC=NC2=CC1OC)OC1=CC(=C(N)C=C1)F | C16H14FN3O3
reactant | triphosgene | 47 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 2,4-difluorobenzylamine | 28 μl | FC1=C(CN)C=CC(=C1)F | C7H7F2N
solvent | chloroform | 3 ml | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 0.3 ml | C(C)N(CC)CC | C6H15N
product | N-(2,4-Difluorobenzyl)-N′-{4-[(6,7-dimethoxy-4-quinazolinyl)oxy]-2fluorophenyl}urea | 20 mg, yield 26% | FC1=C(CNC(=O)NC2=C(C=C(C=C2)OC2=NC=NC3=CC(=C(C=C23)OC)OC)F)C=CC(=C1)F | C24H19F3N4O4
